US03987182
B. 2-Isopropyl-1-methyl-5-nitro-6-trifluoromethylbenzimidazole
In a similar manner by substituting for the 2-isopropyl-1-methyl-6-trifluoromethylbenzimidazole reactant of this example an equivalent quantity of: 2-isovaleryl-1-butyl-6-trifluoromethylbenzimidazole, 2-cyclobutyl-1-methyl-6-difluoromethylbenzimidazole, 2-cyclopropyl-1-ethyl-6-pentafluorothylbenzimidazole, 2-isopropyl-1-hexyl-4,6-ditrifluoromethylbenzimidazole, 2-cyclopropyl-1-ethyl-6-fluorobenzimidazole, 2-isobutyl-1-methyl-6-bromobenzimidazole, there is produced: 2-isovaleryl-1-butyl-5-nitro-6-trifluoromethylbenzimidazole, 2-cyclobutyl-1-methyl-5-nitro-6-difluoromethylbenzimidazole, 2-cyclopropyl-1-ethyl-5-nitro-6-pentafluoroethylbenzimidazole, 2-isopropyl-1-hexyl-5-nitro-6-trifluoromethylbenzimidazole, and 2-isobutyl-1-methyl-5-nitro-6-bromobenzimidazole, respectively.

reactant | 2-isopropyl-1-methyl-6-trifluoromethylbenzimidazole | C(C)(C)C1=NC2=C(N1C)C=C(C=C2)C(F)(F)F | C12H13F3N2
reactant | 2-isovaleryl-1-butyl-6-trifluoromethylbenzimidazole | C(CC(C)C)(=O)C1=NC2=C(N1CCCC)C=C(C=C2)C(F)(F)F | C17H21F3N2O
reactant | 2-cyclobutyl-1-methyl-6-difluoromethylbenzimidazole | C1(CCC1)C1=NC2=C(N1C)C=C(C=C2)C(F)F | C13H14F2N2
reactant | 2-cyclopropyl-1-ethyl-6-fluorobenzimidazole | C1(CC1)C1=NC2=C(N1CC)C=C(C=C2)F | C12H13FN2
reactant | 2-isobutyl-1-methyl-6-bromobenzimidazole | C(C(C)C)C1=NC2=C(N1C)C=C(C=C2)Br | C12H15BrN2
reactant | 2-isovaleryl-1-butyl-5-nitro-6-trifluoromethylbenzimidazole | C(CC(C)C)(=O)C1=NC2=C(N1CCCC)C=C(C(=C2)[N+](=O)[O-])C(F)(F)F | C17H20F3N3O3
reactant | 2-cyclobutyl-1-methyl-5-nitro-6-difluoromethylbenzimidazole | C1(CCC1)C1=NC2=C(N1C)C=C(C(=C2)[N+](=O)[O-])C(F)F | C13H13F2N3O2
reactant | 2-cyclopropyl-1-ethyl-5-nitro-6-pentafluoroethylbenzimidazole | C1(CC1)C1=NC2=C(N1CC)C=C(C(=C2)[N+](=O)[O-])C(C(F)(F)F)(F)F | C14H12F5N3O2
reactant | 2-isopropyl-1-hexyl-5-nitro-6-trifluoromethylbenzimidazole | C(C)(C)C1=NC2=C(N1CCCCCC)C=C(C(=C2)[N+](=O)[O-])C(F)(F)F | C17H22F3N3O2
reactant | 2-isobutyl-1-methyl-5-nitro-6-bromobenzimidazole | C(C(C)C)C1=NC2=C(N1C)C=C(C(=C2)[N+](=O)[O-])Br | C12H14BrN3O2
product | 2-Isopropyl-1-methyl-5-nitro-6-trifluoromethylbenzimidazole | C(C)(C)C1=NC2=C(N1C)C=C(C(=C2)[N+](=O)[O-])C(F)(F)F | C12H12F3N3O2
